US05760032
9-Bromo-4-(2-chlorophenyl)-2-ethyl-6H-thieno[3,2-f] [1,2,4]triazolo[4,3-a] [1,4]diazepine (1.0 g) was added to 2M sulfuric acid (26.5 ml), and the mixture was stirred at 80° C. overnight. Sodium hydrogencarbonate was added to the reaction mixture to make the mixture alkaline. Chloroform and indole-2-carbonyl chloride were added, and the mixture was stirred at room temperature for 1.5 hours. The obtained crystals were filtered and washed with ethyl acetate to give 0.196 g of N-(3-bromo-4-(3-(2-chlorobenzoyl)-5-ethylthiophen-2-yl) [1,2,4]triazol-5-ylmethyl)indole-2-carboxamide.

reactant | 9-Bromo-4-(2-chlorophenyl)-2-ethyl-6H-thieno[3,2-f] [1,2,4]triazolo[4,3-a] [1,4]diazepine | 1.0 g | BrC1=NN=C2N1C1=C(C(=NC2)C2=C(C=CC=C2)Cl)C=C(S1)CC | C16H12BrClN4S
reactant | sulfuric acid | 2M, 26.5 ml | S(O)(O)(=O)=O | H2O4S
reactant | Sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | indole-2-carbonyl chloride | N1C(=CC2=CC=CC=C12)C(=O)Cl | C9H6ClNO
solvent | Chloroform | C(Cl)(Cl)Cl | CHCl3
product | N-(3-bromo-4-(3-(2-chlorobenzoyl)-5-ethylthiophen-2-yl) [1,2,4]triazol-5-ylmethyl)indole-2-carboxamide | 0.196 g | BrC1=NN=C(N1C=1SC(=CC1C(C1=C(C=CC=C1)Cl)=O)CC)CNC(=O)C=1NC2=CC=CC=C2C1 | C25H19BrClN5O2S
